US08383652B2
0.3 mL (0.3 mmol) of a 1 N ethanolic hydrogen chloride solution is added to a solution of 0.12 g (0.3 mmol) of (Z)-2-ethoxy-3-{6-[3-(3-heptyl-1-methylureido)phenyl]pyrid-3-yl}acrylic acid in 1 mL of ethanol, precooled to 0° C. The ethanol is evaporated off under a flow of nitrogen and 6 mL of diethyl ether are added. The hydrochloride precipitates; the reaction medium is filtered off and the solid obtained is rinsed thoroughly with diethyl ether. The solid obtained is recrystallized from a hot mixture of acetone and a minimum amount of water. 100 mg (77%) of (Z)-2-ethoxy-3-{6-[3-(3-heptyl-1-methylureido)phenyl]pyrid-3-yl}acrylic acid hydrochloride are obtained in the form of a yellow solid with a melting point of 170° C.

reactant | hydrogen chloride | 1 N | Cl | ClH
reactant | (Z)-2-ethoxy-3-{6-[3-(3-heptyl-1-methylureido)phenyl]pyrid-3-yl}acrylic acid | 0.3 mmol, 0.12 g | C(C)O\C(\C(=O)O)=C/C=1C=NC(=CC1)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C25H33N3O4
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (Z)-2-ethoxy-3-{6-[3-(3-heptyl-1-methylureido)phenyl]pyrid-3-yl}acrylic acid hydrochloride | 100 mg, 77% | Cl.C(C)O\C(\C(=O)O)=C/C=1C=NC(=CC1)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | InChI=1S/C25H33N3O4.ClH/c1-4-6-7-8-9-15-26-25(31)28(3)21-12-10-11-20(17-21)22-14-13-19(18-27-22)16-23(24(29)30)32-5-2;/h10-14,16-18H,4-9,15H2,1-3H3,(H,26,31)(H,29,30);1H/b23-16-;
